Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___
 
Chief Complaint:
recurrent line infection
 
Major Surgical or Invasive Procedure:
midline removal ___
tunneled RIJ ___
 
History of Present Illness:
Ms ___ is a ___ F with medical history notable for POTS on 
home IVF, multiple admissions for line infections without 
bacteremia (most recent ___ for (+) pseudomonal midline 
culture without bacteremia) who presents with concern for 
recurrent line infection.  
 
Per patient, she noticed increased redness and swelling around 
her RUE midline yesterday and milky-fluid coming from the site 
last night that smelled "like an infection". She also had sharp 
pain over the line site. She tried to iced her arm and keep it 
elevated and she changed her dressing. She ran IVF through the 
midline and was able to draw back. She reports feeling lethargic 
and overall "bad". She notes a new intermittent, productive 
cough. She denies chest pain, abdominal pain, n/v, changes in 
BM.  
 
In the ED, initial VS were 97.1 112 121/88 16 100% RA  
 Exam notable for: not documented in the ED  
 Labs showed: normal CBC, BMP  
 -Blood cultures x2 off of line obtained, 2 sets of peripheral 
blood cultures obtained  

Imaging showed:  
 -CXR: IMPRESSION: No acute cardiopulmonary process.  
 -Unilateral RUE ultrasound: No evidence of deep vein thrombosis 
in the right upper extremity.  
 Received vanc/diphenhydramine, cefepime, and 2L NS  
 Transfer VS were 97.8 67 114/72 16 99% RA  
 On arrival to the floor, patient reports feeling frustrated by 
her recurrent line infections and skin sensitivities.  

REVIEW OF SYSTEMS:  
 (+)PER HPI, otherwise 10pt ROS obtained and negative  
 
 
Past Medical History:
 -POTs requiring IVF 
 -Depression  
 -History of bilateral ovarian cysts  
 -History of drug and alcohol abuse  
 -Anxiety  
 -Depression  
 -History of gastritis and peptic ulcer disease  
 -Chronic fatigue syndrome  
 -Vitamin D deficiency  
 -Hypothyroidism  
 -Recurrent DVTs  
 -GERD  
 -Neuropathy  
 -S/p colectomy  

 
Social History:
___
Family History:
 Mother with no cancer  
 Father- unsure  
 2 brothers and sister are alive and well  
 PGM with breast cancer, DM, CVD, HTN  
 MGM - breast cancer, DM, HLD, HTN  
 No history of blood clots or bleeding disorders  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
 VS: 98.2 106/65 66 18 98 Ra  
 GENERAL: well appearing, no acute distress  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM, multiple 
caries  
 NECK: supple neck, no LAD, no JVD  
 HEART: RRR, (+) S1, S2, no murmurs, rubs, or gallops  
 LUNGS: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: soft, nondistended, nontender  
 EXTREMITIES: WWP, no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: AAOx3, CN II-XII intact  
 SKIN: RUE with area of erythema circumferential around midline 
site, with small bullae, flaking skin  

DISCHARGE PHYSICAL EXAM: 
========================
VS: 98.5 PO 101 / 63 R Lying 100 16 98 Ra  
 GENERAL: well appearing, no acute distress  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM, multiple 
caries  
 NECK: supple neck, no LAD, no JVD, tunneled line in place 
(RIJ)) w/ overlying ttp 
 HEART: RRR, (+) S1, S2, no murmurs, rubs, or gallops  
 LUNGS: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: soft, nondistended, nontender  
 EXTREMITIES: WWP, no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: AAOx3, CN II-XII intact  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 06:30PM URINE  HOURS-RANDOM
___ 06:30PM URINE  UHOLD-HOLD
___ 06:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:30PM   GLUCOSE-84 UREA N-8 CREAT-0.7 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-26 ANION GAP-15
___ 04:30PM   estGFR-Using this
___ 04:30PM   WBC-8.6 RBC-4.50 HGB-12.9 HCT-39.1 MCV-87 
MCH-28.7 MCHC-33.0 RDW-13.2 RDWSD-41.3
___ 04:30PM   NEUTS-53.6 ___ MONOS-6.6 EOS-2.8 
BASOS-1.0 IM ___ AbsNeut-4.62 AbsLymp-3.06 AbsMono-0.57 
AbsEos-0.24 AbsBaso-0.09*
___ 04:30PM   PLT COUNT-281

MICRO: 
======
 WOUND CULTURE (Final ___:  
 PSEUDOMONAS AERUGINOSA. >15 COLONIES.  
 BETA STREPTOCOCCUS GROUP G. <15 COLONIES.  
 SENSITIVITIES: MIC expressed in MCG/ML  
 _________________________________________________________  
 PSEUDOMONAS AERUGINOSA  
 |  
 CEFEPIME-------------- 4 S  
 CEFTAZIDIME----------- 8 S  
 CIPROFLOXACIN---------<=0.25 S  
 GENTAMICIN------------ <=1 S  
 MEROPENEM-------------<=0.25 S  
 PIPERACILLIN/TAZO----- 16 S  
 TOBRAMYCIN------------ <=1 S  
 

[] BCx x 4 from day of admission NEGATIVE
[] BCx s/p line pull NEGATIVE

IMAGING and STUDIES:  
====================
+ CXR: IMPRESSION: No acute cardiopulmonary process.  

+ Unilateral RUE ultrasound: No evidence of deep vein thrombosis 
in the right upper extremity.  
 
DISCHARGE LABS: 
===============
None as they were not clinically indicated

 
Brief Hospital Course:
___ F with medical history notable for POTS on home IVF, 2 
admissions for potential line infections without bacteremia 
(most recent ___ for (+) pseudomonal IV tip midline culture 
without bacteremia) who presented with red rash in right 
antecubital fossa and c/f midline infection: 

#RUE MIDLINE CONTACT DERMATITIS 
Presented with right antecubital erythema and prurutitis. 
Initial concern was for cellulitis in the ED, but was seen by 
dermatology who felt this was contact dermatitis. Received 
topical clobetasol with drastic improvement in her dermatitis at 
time of discharge. She was continued on loratadine, cetirizine, 
diphenhydramine, and chlorpheniramine. Clebetasol ointment BID 
to arms ___ days (___). We are working to arrange patch 
testing as an outpatient. For procedural prep, would recommend 
iodine-based solution for now unless patient objects. 

#STAPH COAG POSITIVE IV TIP
When she presented with right antecubital fossa erythema, her IV 
was pulled and tip was cultures. Her IV tip grew coag positive 
staph (pan sensitive). All of her BCx were negative. This is her 
second possible midline infection which has been BCx negative. 
Suspicion is for skin contaminant when tip pulled out. She 
completed 5 days IV abx (vanc with switch to cefazolin). Her 
overlying erythema and pruritis is though to be due to contact 
dermatitis from her allergy to line dressings and creams. 
Infectious disease was consulted who recommended AGAINST pulling 
future lines or sending the cath tip for culture unless the 
patient has fever, leukocytosis, instability or positive blood 
cultures.

#ACCESS ISSUES
Requires IVF for refractort POTS. Has had thrombus associated 
with PICC in the past and multiple midlines pulled due to 
?infection which are most likely contact dermatitis rather than 
cellulitis. She ultimately had tunneled RIJ placed by radiology 
on ___. She will have ___ services for help with dressing 
changes. 

# POTS requiring IVF AT HOME
Has refractory POTS likely exacerbated by partial colectomy in 
the setting of constipation. Requires access for this. IVF was 
continued during this hospitalization. 

# RECURRENT DVT (RLE ___ after ankle surgery, and PICC assoc'd 
DVT x2 in ___: 
Followed by Dr. ___ in ___ ___. Maintained on 
1.5mg/kg daily (90mg rounded to 80mg vial size). Held for 
tunneled line, but resumed on enoxaparin 80mg sq daily. FYI, she 
is not on NOAC due to suspected poor absorption (partial 
colectomy and chronic diarrhea). 

# PARTIAL SIGMOIDECTOMY: In ___ for refractory constipation, 
now with loost BM 4 times/day, at current baseline. This may be 
contributing to her dehydration and refractory POTS. Continued 
loperamide, psyllium prn. If BMs thickened in the future, 
consider re-trial of salt tabs and hydration for POTS.

TRANSITIONAL ISSUES: 
====================
#MEDICATIONS: Please see discharge worksheet for medication 
changes. 
[] If concern for future line infection, please do not remove 
future IV access unless febrile, unstable or leukocytosis. Get 
BCx first and consult with infectious disease and IV team before 
pulling the line. 
[] For procedural prep, would recommend iodine-based solution 
for now unless patient objects 
[] She has very allergic type skin. We will refer for patch 
testing as outpatient. 
[] We started clobetasol 0.05% ointment BID x ___ days to 
affected area on both AC fossae (___)
[] If BMs thickened in the future, consider re-trial of salt 
tabs and hydration for POTS.
# CODE: Full
# CONTACT: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Cetirizine 10 mg PO DAILY 
3. Chlorpheniramine Maleate 4 mg PO TID 
4. Cholestyramine 4 gm PO TID:PRN diarrhea 
5. Desonide 0.05% Cream 1 Appl TP DAILY PRN  rash  
6. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia, pain  
7. Enoxaparin Sodium 80 mg SC DAILY 
8. Loratadine 10 mg PO DAILY 
9. LORazepam 0.5 mg PO DAILY:PRN anxiety  
10. Multivitamins 1 TAB PO DAILY 
11. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
12. Prochlorperazine 5 mg PO Q6H:PRN nausea 
13. Psyllium Wafer 1 WAF PO BID 
14. Tizanidine 4 mg PO QHS:PRN pain  
15. TraZODone 100 mg PO QHS:PRN insomnia 
16. Venlafaxine 150 mg PO BID 
17. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea  
18. Melatonin (with B6) (melatonin-pyridoxine (vit B6)) ___ mg 
oral DAILY 
19. Ranitidine 150 mg PO BID 
20. LOPERamide 4 mg PO TID:PRN diarrhea 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
through ___ 
RX *clobetasol 0.05 % Apply to affected areas twice a day 
Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth Q6H:PRN Disp #*8 Tablet 
Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Cetirizine 10 mg PO DAILY  
5.  Chlorpheniramine Maleate 4 mg PO TID  
6.  Cholestyramine 4 gm PO TID:PRN diarrhea  
7.  DiphenhydrAMINE 50 mg PO QHS:PRN insomnia, pain   
8.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea   
9.  Enoxaparin Sodium 80 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time  
10.  LOPERamide 4 mg PO TID:PRN diarrhea  
11.  Loratadine 10 mg PO DAILY  
12.  LORazepam 0.5 mg PO DAILY:PRN anxiety   
13.  Melatonin (with B6) (melatonin-pyridoxine (vit B6)) ___ mg 
oral DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
16.  Prochlorperazine 5 mg PO Q6H:PRN nausea  
17.  Psyllium Wafer 1 WAF PO BID  
18.  Ranitidine 150 mg PO BID  
19.  Tizanidine 4 mg PO QHS:PRN pain   
20.  TraZODone 100 mg PO QHS:PRN insomnia  
21.  Venlafaxine 150 mg PO BID  
22. HELD- Desonide 0.05% Cream 1 Appl TP DAILY PRN  rash   This 
medication was held. Do not restart Desonide 0.05% Cream until 
told to resume by your doctor.
23.IV fluids
1000 mL NS administered TID at rate of 250cc/hr 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Contact dermatitis
Concern for IV line infection

SECONDARY DIAGNOSIS: 
POTS 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___!

WHY WERE YOU IN THE HOSPITAL?
- You had a rash around your midline site

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were seen by dermatology who thinks the redness on your 
left arm is "contact dermatitis" or an allergic reaction
- Your midline was pulled and bacteria was growing on the tip, 
but not in the blood. This could have been a contaminant on the 
tip and not a true infection
- You received IV antibiotics
- You had a new tunneled line placed by interventional 
radiology.

WHAT HAPPENS NOW THAT YOU ARE GOING HOME
- Please take your medicine exactly as prescribed
- Your lovenox was held for the line placement. You may resume 
this tomorrow (___)
- Please follow-up with your doctors ___ this paperwork for 
details)
- Do not allow doctors to pull out your line without discussing 
with ___ (IV nurse) or the infectious disease team. 
If you have redness around your line, you need blood cultures 
but do not your line pulled immediately. 

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___